US05552397
a) N2 -[(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, methyl ester
Cesium carbonate (4.28 g., 13.1 mmoles) was added to a mixture of N2 -[(1,1-dimethylethoxy)carbonyl]-N6 -[(Phenylmethoxy)carbonyl]-L-lysine (10 g., 26.3 mmoles) and 20% water-methanol (60 ml.). The solution became homogeneous within 5 minutes so the solvent was stripped and the residual water removed azeotropically with acetonitrile (3×). The resulting oil was dried in vacuo, dissolved in dry dimethyl-formamide and treated with methyl iodide (3.2 ml., 2.0 eq.). The reaction mixture was stirred at room temperature for 1.5 hours under argon, diluted with ethyl acetate (200 ml.) and washed successively with water (2×25 ml.), saturated sodium bicarbonate (25 ml.) and brine (25 ml.). The organic phase was dried (anhydrous magnesium sulfate), filtered, evaporated to dryness and dried in vacuo to give 10.11 g., of product as a light yellow syrup; Rf =0.30 (ethyl acetate:hexanes, 1:2).

reactant | Cesium carbonate | 13.1 mmoles, 4.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N2 [(1,1-dimethylethoxy)carbonyl]-N6 -[(Phenylmethoxy)carbonyl]-L-lysine | 26.3 mmoles, 10 g | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C
reactant | water methanol | 60 ml | O.CO
reactant | methyl iodide | 3.2 ml, 2.0 eq. | CI | CH3I
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N2 [(1,1-Dimethylethoxy)carbonyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine, methyl ester | N#N.CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C | InChI=1S/C20H30N2O6.N2/c1-20(2,3)28-19(25)22-16(17(23)26-4)12-8-9-13-21-18(24)27-14-15-10-6-5-7-11-15;1-2/h5-7,10-11,16H,8-9,12-14H2,1-4H3,(H,21,24)(H,22,25);/t16-;/m0./s1
